### PR TITLE
chore: don't use `by assumption` for hypothesis with exposed name

### PR DESCRIPTION
**Pull request by felixpernegger**
Let's say some goal if solve with `:= by assumption` and `assumption` is using `h` to solve it. Then `:= h` would also solve the goal (note: in most cases this is not possible, we would need to expose names before). This is more readable (tells the used explicitly what is being used) and at least in theory slightly faster.

This PR replace all such `by assumption` with the hypothesis directly. If this looks good / gets merged, I will make another PR replacing also `assumption`'s which do not immediately follow a `by`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/3d1ca395c4d7893120aa62ee7c32fe4beb07bb2e?reference=eb6a272ec5968ee3d5f6f02bd4232f057c25073b) for 3d1ca395c4d7893120aa62ee7c32fe4beb07bb2e against eb6a272ec5968ee3d5f6f02bd4232f057c25073b are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-83.7G** (**-0.06%**)

No significant changes detected.

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/9618ba55c5d8a38a7f0977355435807a9ce03b13?reference=eb6a272ec5968ee3d5f6f02bd4232f057c25073b) for 9618ba55c5d8a38a7f0977355435807a9ce03b13 against eb6a272ec5968ee3d5f6f02bd4232f057c25073b are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-76.9G** (**-0.05%**)

No significant changes detected.

File: Mathlib/Analysis/Calculus/FDeriv/Congr.lean [hunk 1]
```diff
@@ -141,7 +141,7 @@ theorem Filter.EventuallyEq.differentiableAt_iff (h : f₀ =ᶠ[𝓝 x] f₁) :
 
 theorem Filter.EventuallyEq.hasFDerivWithinAt_iff (h : f₀ =ᶠ[𝓝[s] x] f₁) (hx : f₀ x = f₁ x) :
     HasFDerivWithinAt f₀ f' s x ↔ HasFDerivWithinAt f₁ f' s x :=
-  h.prodMap (by assumption) |>.hasFDerivAtFilter_iff fun _ => _root_.rfl
+  h.prodMap (by exact hx) |>.hasFDerivAtFilter_iff fun _ => _root_.rfl
```
Comment (Vierkantor) [inline Mathlib/Analysis/Calculus/FDeriv/Congr.lean:144]: `by exact` seems worse to me than `by assumption`. Would the following not work:
```suggestion
  h.prodMap hx |>.hasFDerivAtFilter_iff fun _ => _root_.rfl
```

**Review by Vierkantor — COMMENTED** [review]
I'm not convinced that this PR is useful. The `assumption` tactic does convey information to the reader, just like in written maths saying "this holds by assumption" is different from making very precise which assumption we made.

Could you open a Zulip discussion before making this change?

File: Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean [hunk 2]
```diff
@@ -90,7 +90,7 @@ lemma exists_injective_nonempty_iso [EnoughInjectives C] (K : DerivedCategory.Pl
   obtain ⟨L, _, ⟨e⟩⟩ := DerivedCategory.exists_iso_Q_obj_of_isGE K.obj n
   obtain ⟨M, _, i, hi⟩ :=
     CochainComplex.Plus.exists_quasiIso_injective ⟨L, ⟨n, inferInstance⟩⟩ n
-  have : QuasiIso i.hom := by assumption
+  have : QuasiIso i.hom := hi
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Homology/DerivedCategory/DerivabilityStructureInjectives.lean:93]:
```suggestion
  change QuasiIso i.hom at hi
```

File: Mathlib/CategoryTheory/Limits/FinallySmall.lean [hunk 3]
```diff
@@ -217,7 +217,7 @@ theorem initiallySmall_of_essentiallySmall_weakly_initial_objectProperty
     [IsCofilteredOrEmpty J] (P : ObjectProperty J) [ObjectProperty.EssentiallySmall.{v} P]
     (hP : ∀ i, ∃ j, P j ∧ Nonempty (j ⟶ i)) : InitiallySmall.{v} J := by
   obtain ⟨Q, H, hQ⟩ := ObjectProperty.EssentiallySmall.exists_small_le'.{v} P
-  have : Small.{v} (show Set _ from Q) := by assumption
+  have : Small.{v} (show Set _ from Q) := H
```
Comment (SnirBroshi) [inline Mathlib/CategoryTheory/Limits/FinallySmall.lean:220]:
```suggestion
  change Small (show Set _ from Q) at H
```
or maybe even
```suggestion
  change Set J at Q
  change Small Q at H
```

File: Mathlib/CategoryTheory/Presentable/Type.lean [hunk 4]
```diff
@@ -48,7 +48,7 @@ lemma isCardinalPresentable (hX : HasCardinalLT X κ) [Fact κ.IsRegular] :
       · choose k a hk using fun x ↦
           (Types.FilteredColimit.isColimit_eq_iff' hc _ _).1 (congr_hom h x)
         dsimp at f g h k a hk ⊢
-        replace hk : ∀ x, F.map (a x) (f x) = F.map (a x) (g x) := by assumption
+        replace hk : ∀ x, F.map (a x) (f x) = F.map (a x) (g x) := hk
```
Comment (SnirBroshi) [inline Mathlib/CategoryTheory/Presentable/Type.lean:51]:
```suggestion
        change ∀ x, F.map (a x) (f x) = F.map (a x) (g x) at hk
```

File: Mathlib/Topology/Category/CompHausLike/EffectiveEpi.lean [hunk 5]
```diff
@@ -53,7 +53,7 @@ def effectiveEpiStruct {B X : CompHausLike P} (π : X ⟶ B) (hπ : Function.Sur
           (ofHom _ ⟨fun _ ↦ a, continuous_const⟩)
           (ofHom _ ⟨fun _ ↦ b, continuous_const⟩)
           (by ext; exact hab))
-        a⟩) by assumption
+        a⟩) from this
```
Comment (SnirBroshi) [inline Mathlib/Topology/Category/CompHausLike/EffectiveEpi.lean:56]: This 8-line `suffices` is just a `change` in disguise, which also fits in 2 lines:
```lean
change g = ofHom _ (IsQuotientMap.liftEquiv _ ⟨e.hom.hom, fun a b hab ↦ CategoryTheory.congr_fun
  (h (ofHom _ ⟨_, continuous_const⟩) (ofHom _ ⟨_, continuous_const⟩) (by ext; exact hab)) a⟩)
```
or a rewrite if you prefer
```lean
rw [← IsQuotientMap.liftEquiv_apply (g := ⟨e.hom.hom, fun a b hab ↦ CategoryTheory.congr_fun
  (h (ofHom _ ⟨_, continuous_const⟩) (ofHom _ ⟨_, continuous_const⟩) (by ext; exact hab)) a⟩)]
```

File: Mathlib/Topology/Category/Profinite/Nobeling/Basic.lean [hunk 6]
```diff
@@ -439,7 +439,7 @@ theorem GoodProducts.span_iff_products [WellFoundedLT I] :
   rw [span_le]
   rintro f ⟨l, rfl⟩
   let L : Products I → Prop := fun m ↦ m.eval C ∈ span ℤ (Set.range (GoodProducts.eval C))
-  suffices L l by assumption
+  suffices L l from this
```
Comment (SnirBroshi) [inline Mathlib/Topology/Category/Profinite/Nobeling/Basic.lean:442]:
```suggestion
  change L l
```

File: Mathlib/Topology/Category/TopCat/EffectiveEpi.lean [hunk 7]
```diff
@@ -52,7 +52,7 @@ def effectiveEpiStructOfQuotientMap {B X : TopCat.{u}} (π : X ⟶ B) (hπ : IsQ
           (ofHom ⟨fun _ ↦ a, continuous_const⟩)
           (ofHom ⟨fun _ ↦ b, continuous_const⟩)
           (by ext; exact hab))
-        a⟩) by assumption
+        a⟩) from this
```
Comment (SnirBroshi) [inline Mathlib/Topology/Category/TopCat/EffectiveEpi.lean:55]: This `suffices` is a `change`

File: Mathlib/Order/Atoms.lean [hunk 8]
```diff
@@ -477,7 +477,7 @@ instance [IsStronglyAtomic α] {s : Set α} [Set.OrdConnected s] : IsStronglyAto
   Set.OrdConnected.isStronglyAtomic <| by assumption
 
 instance [IsStronglyCoatomic α] {s : Set α} [h : Set.OrdConnected s] : IsStronglyCoatomic s :=
-  Set.OrdConnected.isStronglyCoatomic <| by assumption
+  Set.OrdConnected.isStronglyCoatomic h
```
Comment (SnirBroshi) [inline Mathlib/Order/Atoms.lean:480]:
```suggestion
  h.isStronglyCoatomic
```
although in this case maybe removing the name `h` is preferable

**Comment by SnirBroshi** [comment]
btw did you also look for `‹_›`s?
